US04602014
A mixture of 1.37 g of p-chlorophenylhydrazine and 2.4 g of ethyl 4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate in 75 mL of xylene is stirred and refluxed overnight, then cooled to room temperature and filtered. Collected solid is dissolved in hot ethanol, treated with decolorizing charcoal, and concentrated to a smaller volume to deposit a solid, which is recrystallized from ethanol containing hydrogen chloride to yield 2-p-chlorophenyl-2,3,6,7,8,9-hexahydro-8-methylpyrazolo[4,3-c]quinolin-3(5H)-one hydrochloride, m.p. 331°-333°.

reactant | p-chlorophenylhydrazine | 1.37 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | ethyl 4-chloro-6-methyl-5,6,7,8-tetrahydroquinoline-3-carboxylate | 2.4 g | ClC1=C(C=NC=2CCC(CC12)C)C(=O)OCC | C13H16ClNO2
solvent | xylene | 75 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-p-chlorophenyl-2,3,6,7,8,9-hexahydro-8-methylpyrazolo[4,3-c]quinolin-3(5H)-one hydrochloride | Cl.ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCC(CC23)C)C1=O | InChI=1S/C17H16ClN3O.ClH/c1-10-2-7-15-13(8-10)16-14(9-19-15)17(22)21(20-16)12-5-3-11(18)4-6-12;/h3-6,9-10,19H,2,7-8H2,1H3;1H
